US05849888
47.3 Grams of cyclohexylamine is mixed with 50 g of dimethyl 2,2'-azobis (2-methylpropionate) and 20 g of 28% sodium methoxide solution in methanol is dropwise added thereto under stirring, following by conducting a reaction at room temperature with stirring for 6 hours and keeping standing overnight. 100 Milliliter of water is added to the reaction solution and cooled to 10° C. to precipitate crystals. The crystals are recovered by filtration and dried to give 59.4 g (yield 81 %) of 2,2'-azobis (N-cyclohexyl-2-methylpropionamide) as yellow crystals. The solubility is shown in Table 1.

reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | dimethyl 2,2'-azobis (2-methylpropionate) | 50 g | N(=NC(C(=O)OC)(C)C)C(C(=O)OC)(C)C | C10H18N2O4
reactant | sodium methoxide | 20 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 2,2'-azobis (N-cyclohexyl-2-methylpropionamide) | 59.4 g, yield 81 % | N(=NC(C(=O)NC1CCCCC1)(C)C)C(C(=O)NC1CCCCC1)(C)C | C20H36N4O2
